US05798374
The title compound was prepared by the general method described by Potts, K. T.(1961) Chem. Rev. 61:87. 4-Phenyl-3-thiosemicarbazide (4.18 g) (Aldrich) was dissolved in 50 mL of pyridine and treated with 2.71 g of ethyl chloroformate at 0° C. The reaction was stirred for 2 hours and then refluxed for 18 hours. Evaporation of the solvent and trituration with water gave 2.5 g of 3-hydroxy-5-mercapto-4-phenyl-1,2,4-triazole. 3-Hydroxy-5-mercapto-4-phenyl-1,2,4-triazole (1.93 g) was stirred in 10 mL of ethanol with 1.1 equivalent of potassium carbonate in 10 mL ethanol for one hour and then reacted with 2.09 g of 2-bromo-5-nitrothiazole as in Example 1. Crystallization from ethanol and water gave 0.6 g of 3-hydroxy-5-[(5-nitrothiazol-2-yl)mercapto]-4-phenyl-1,2,4-triazole, a dark yellow solid, M.P. 188°-190° C.

reactant | 3-Hydroxy-5-mercapto-4-phenyl-1,2,4-triazole | 1.93 g | OC1=NN=C(N1C1=CC=CC=C1)S | C8H7N3OS
reactant | potassium carbonate | 1.1 equivalent | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-5-nitrothiazole | 2.09 g | BrC=1SC(=CN1)[N+](=O)[O-] | C3HBrN2O2S
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-hydroxy-5-[(5-nitrothiazol-2-yl)mercapto]-4-phenyl-1,2,4-triazole | 0.6 g | OC1=NN=C(N1C1=CC=CC=C1)SC=1SC(=CN1)[N+](=O)[O-] | C11H7N5O3S2
